US03940394
[4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]acetic acid
[4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]acetic acid ethyl ester (1.4 g) was heated for 5 minutes with 30 ml. of 30% sodium hydroxide solution on a hot plate. The reaction mixture was then cooled and acidified with concentrated hydrochloric acid solution. The resulting precipitate was removed by filtration, washed with water and recrystallized from ethanol to afford 1.0 g of product, mp. 211°-213°C., decomp.

reactant | [4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]acetic acid ethyl ester | 1.4 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)NCC1=CC=C(C=C1)Cl)=O | C15H15Cl2N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | [4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]acetic acid | 1.0 g | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)Cl)SCC(=O)O | C13H11Cl2N3O2S
